.SubCkt KRT31KR71H475KH01 _net1 _net2
.param K01=4.5292e-06
.param L02=2.3293e-10
.param M03=5.2404e-03
.param K04=1.1583e-03
.param M04=2.7140e+00
.param K05=1.0721e-03
.param M05=9.4094e-01
.param K06=1.0141e-03
.param M06=1.6687e-01
.param K07=1.0071e-03
.param M07=3.9645e-02
.param K08=8.5249e-04
.param M08=7.5122e-03
.param L09=8.5379e-11
.param M09=4.6187e-02
.param L10=7.8643e-10
.param M10=3.1742e-02
.param L11=4.5399e-10
.param M11=2.4946e-03
.param K12=2.7664e-05
.param L12=5.0933e-11
.param M12=7.6342e-03
.param K13=1.6565e-05
.param L13=3.9450e-11
.param M13=7.3654e-03
.param K14=4.5339e-12
.param L14=2.2799e-10
.param M14=6.7466e+01
.param K15=8.6831e-13
.param L15=9.3265e-10
.param M15=2.3153e+03
C01 _net1 _net0102 'K01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt KRT31KC8YA106KH01 _net1 _net2
.param K01=7.5356e-06
.param L02=3.9194e-12
.param M03=4.8561e-03
.param K04=4.3532e-04
.param M04=1.0000e+01
.param K05=5.0307e-04
.param M05=1.1482e+00
.param K06=4.9366e-04
.param M06=1.3490e-01
.param K07=4.6493e-04
.param M07=1.5849e-02
.param K08=7.1671e-04
.param M08=1.3933e-03
.param L09=1.7515e-11
.param M09=1.1067e-01
.param L10=9.2442e-11
.param M10=3.9811e-02
.param L11=7.6111e-10
.param M11=2.2909e-02
.param L12=1.0955e-10
.param M12=6.3096e-04
.param K13=5.6700e-05
.param L13=4.2113e-11
.param M13=2.8324e-03
.param K14=2.0558e-05
.param L14=4.8504e-11
.param M14=3.3892e-03
.param K15=8.1841e-13
.param L15=1.3966e-09
.param M15=1.0390e+03
C01 _net1 _net0102 'K01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 
