.SubCkt GRJ033R61A105ME11 [_net1] [_net2]
.param K01=7.5412e-07
.param M01=5.0000e+07
.param L02=1.5225e-10
.param M03=3.9799e-02
.param K04=3.3358e-05
.param M04=6.5499e+01
.param K05=5.9152e-05
.param M05=3.9309e+00
.param K06=6.4228e-05
.param M06=6.1704e-01
.param K07=6.6886e-05
.param M07=1.1343e-01
.param K08=4.8145e-05
.param M08=2.7077e-02
.param K09=3.2928e-05
.param M09=6.9614e-03
.param L10=1.5985e-11
.param M10=1.2556e-01
.param L11=3.0535e-11
.param M11=5.7529e-02
.param L12=1.1467e-10
.param M12=2.6842e-02
.param K13=3.7459e-06
.param L13=1.1851e-11
.param M13=2.7909e-03
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GRJ033R61A105ME11

.SubCkt GRJ033R60J105ME11 [_net1] [_net2]
.param K01=7.5412e-07
.param M01=5.0000e+07
.param L02=1.5225e-10
.param M03=3.9799e-02
.param K04=3.3358e-05
.param M04=6.5499e+01
.param K05=5.9152e-05
.param M05=3.9309e+00
.param K06=6.4228e-05
.param M06=6.1704e-01
.param K07=6.6886e-05
.param M07=1.1343e-01
.param K08=4.8145e-05
.param M08=2.7077e-02
.param K09=3.2928e-05
.param M09=6.9614e-03
.param L10=1.5985e-11
.param M10=1.2556e-01
.param L11=3.0535e-11
.param M11=5.7529e-02
.param L12=1.1467e-10
.param M12=2.6842e-02
.param K13=3.7459e-06
.param L13=1.1851e-11
.param M13=2.7909e-03
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GRJ033R60J105ME11
