.SubCkt GRJ155R60J106ME11 [_net1] [_net2]
.param K01=8.1824e-06
.param M01=5.0000e+06
.param L02=1.5914e-10
.param M03=8.2421e-03
.param K04=4.3619e-04
.param M04=3.7586e+00
.param K05=5.8239e-04
.param M05=2.9175e-01
.param K06=6.2004e-04
.param M06=3.4301e-02
.param K07=4.0743e-04
.param M07=4.5036e-03
.param L08=1.1757e-11
.param M08=3.2221e-01
.param L09=2.5610e-11
.param M09=1.0034e-01
.param L10=5.6997e-11
.param M10=3.0110e-02
.param L11=2.1072e-10
.param M11=1.3233e-02
.param K12=4.1628e-05
.param L12=3.2976e-11
.param M12=1.4275e-03
.param K13=1.1753e-05
.param L13=5.6882e-11
.param M13=2.4288e-03
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GRJ155R60J106ME11
